US05145840
(a) 2,5'-anhydro-3'-Azido-3'-Deoxythymidine
The 5'-hydroxyl of 3' azidothymidine (3.0 g, 11.2 mMol) was mesylated by the addition of methanesulphonyl chloride (2.7 mL) to a solution of the starting material in dry pyridine (20 mL). The reaction was allowed to proceed at 5° C. for one hour, then poured onto ice water. The precipitate was collected by filtration. The desired product was obtained by reacting the 3'-azido-4'-mesylthymidine obtained from the first step with potassium carbonate (0.78 g, 5.6 mMol) in DMF (75 mL). The reaction was heated in an 80° C. oil bath for six hours, then poured into ice water. The product was extracted from the water with ethyl acetate. The solvent was removed in vacuo and the resultant oil was flash chromatographed on silica gel by elution with CHCl3 :MeOH (9:1 v/v). The product was obtained in low yield.

reactant | 3' azidothymidine | 11.2 mMol, 3.0 g | N(=[N+]=[N-])[C@@]1(C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1)O | C10H13N5O5
reactant | methanesulphonyl chloride | 2.7 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2,5'-anhydro-3'-Azido-3'-Deoxythymidine | CC1=CN2[C@H]3C[C@@H]([C@H](O3)COC2=NC1=O)N=[N+]=[N-] | C10H11N5O3
